US06969766B2
[4-N-(Piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid ethyl ester
The reaction mixture of (cytosin-1-yl)-acetic acid (3.94 g, 20 mmol) and 1,1′-carbonyldiimidazole (4.86 g, 30 mmol) in DMF was stirred for 25 min. at 100° C. Then, piperonyl alcohol (6.08 g, 40 mmol) was added to the reaction mixture. The resulting reaction mixture was allowed to cool to room temperature for 2 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 mL). The solution was washed with water (100 mL×2), dried over MgSO4, and filtered. The filtrate was concentrated in vacuo and treated with ethyl ether to afford white solid. The solid was filtered off and dried in vacuo to give the desired product (7.20 g, 96%). 1H-NMR (500 MHz; DMSO-d6) δ 10.77 (s, 1H), 8.04 (d, 1H), 7.04 (d, 1H), 7.00 (s, 1H), 6.92 (s, 2H), 6.02 (s, 2H), 5.09 (s, 2H), 4.61 (s, 2H), 4.15 (q, 2H), 1.19 (t, 3H).

reactant | (cytosin-1-yl)-acetic acid | 20 mmol, 3.94 g | N1(C(=O)N=C(N)C=C1)CC(=O)O | C6H7N3O3
reactant | 1,1′-carbonyldiimidazole | 30 mmol, 4.86 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperonyl alcohol | 40 mmol, 6.08 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | DMF | CN(C)C=O | C3H7NO
product | [4-N-(Piperonyloxycarbonyl)-cytosin-1-yl]-acetic acid ethyl ester | 7.20 g, 96% | C(C)OC(CN1C(=O)N=C(NC(=O)OCC2=CC=3OCOC3C=C2)C=C1)=O | C17H17N3O7
